US07034039B2
3-(Aminomethyl)-2-isobutyl-6-(methylsulfanyl)-4-phenyl-1(2H)-isoquinolinone hydrochloride
3-(Aminomethyl)-2-isobutyl-6-(methylsulfanyl)-4-phenyl-1(2H)-isoquinolinone (0.13 g, 0.37 mmol) was dissolved in ethyl acetate (3 mL) and a solution (1 mL) of 4N hydrogen chloride in ethyl acetate was added thereto. The mixture was stirred for 5 min and concentrated under reduced pressure. The obtained residue was crystallized from ethyl acetate-diisopropyl ether (1:2) to give the title compound (0.14 g, 95%) as colorless crystals.

reactant | 3-(Aminomethyl)-2-isobutyl-6-(methylsulfanyl)-4-phenyl-1(2H)-isoquinolinone | 0.37 mmol, 0.13 g | NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)SC)=O)CC(C)C | C21H24N2OS
reactant | hydrogen chloride | 4N, 1 mL | Cl | ClH
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 3-(Aminomethyl)-2-isobutyl-6-(methylsulfanyl)-4-phenyl-1(2H)-isoquinolinone hydrochloride | 0.14 g, 95% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)SC)=O)CC(C)C | InChI=1S/C21H24N2OS.ClH/c1-14(2)13-23-19(12-22)20(15-7-5-4-6-8-15)18-11-16(25-3)9-10-17(18)21(23)24;/h4-11,14H,12-13,22H2,1-3H3;1H
